US05733914
(6-(2-Bromo-6-chlorophenyl)-8-ethyl-7-imino-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-phenylamine (150 mg) was added to 1 mL of acetic anhydride and heated at reflux for 5 minutes. The reaction was cooled and concentrated resulting in an oil which was heated at reflux with 10 mL of 6N HCl for 10 minutes. The reaction was cooled, and 30 mL of water was added causing precipitation. The precipitate was removed by filtration and washed with water. The resulting solid was dried to give 130 mg of 6-(2-bromo-6-chlorophenyl)-8-ethyl-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one; mp softens at 195° C. and melts at 210°-214° C.

reactant | (6-(2-Bromo-6-chlorophenyl)-8-ethyl-7-imino-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-phenylamine | 150 mg | BrC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)NC2=CC=CC=C2)N(C1=N)CC | C21H17BrClN5
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 6N, 10 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
product | 6-(2-bromo-6-chlorophenyl)-8-ethyl-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 130 mg | BrC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)NC2=CC=CC=C2)N(C1=O)CC | C21H16BrClN4O
